US04863920
15.85 g (69.7 mmol) of 4,5-dihydro-5,7-dimethyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was heated to 95° for 2.5 hours with 67 g (264 mmol) of iodine in 100 ml of N,N-dimethylformamide. The reaction mixture was then poured into 450 ml of water, treated with methylene chloride, decolorized with sodium thiosulphate and neutralized with sodium bicarbonate. The aqueous phase was separated and extracted six times with methylene chloride. The combined organic phases were washed three times with water, dried over magnesium sulphate and evaporated. By chromatography of the residue on silica gel while eluting with ethyl acetate and recrystallization from ethyl acetate and hexane there was obtained 4,5-dihydro-3-iodo-5,7-dimethyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 106°-108°.

reactant | 4,5-dihydro-5,7-dimethyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 69.7 mmol, 15.85 g | CN1CC=2N(C3=C(C1=O)C(=CC=C3)C)C=NC2 | C13H13N3O
reactant | iodine | 264 mmol, 67 g | II | I2
reactant | sodium thiosulphate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | 450 ml | O | H2O
product | 4,5-dihydro-3-iodo-5,7-dimethyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | IC=1N=CN2C1CN(C(C1=C2C=CC=C1C)=O)C | C13H12IN3O
